US07294644B2
Preparation of 1-(2-methyl-5-trifluoromethyl-phenyl)-ethanone
The title compound was synthesized from 2-methyl-5-(trifluoromethyl)-benzoyl chloride via the reaction of the corresponding Weinreb amide with methyl magnesium bromide in THF.

reactant | 2-methyl-5-(trifluoromethyl)-benzoyl chloride | CC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C9H6ClF3O
reactant | methyl magnesium bromide | C[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-methyl-5-trifluoromethyl-phenyl)-ethanone | CC1=C(C=C(C=C1)C(F)(F)F)C(C)=O | C10H9F3O
